US08466167B2
To a solution of (E)-8-methyl-2-(prop-1-enyl)benzo[f][1,7]naphthyridin-5-amine (from the previous step) in ethyl acetate/methanol (1:4, 0.05 M) was added 10% wt palladium on carbon (0.2 eq.). Hydrogen gas was introduced via a balloon, and the reaction was stirred for 3 hours. The mixture was filtered through a pad of celite, washing with dichloromethane. The filtrate was concentrated en vaccuo and purified by a COMBIFLASH® system (ISCO) using 0-80% ethyl acetate in hexane to give 8-methyl-2-propylbenzo[f][1,7]naphthyridin-5-amine as off white solid. 1H NMR (CDCl3): δ 8.59 (d, 1H), 8.41 (d, 1H), 8.10 (d, 1H), 7.43 (s, 1H), 7.13 (dd, 1H), 5.94 (bs, 2H), 2.78 (t, 2H), 2.44 (s, 3H), 1.75 (m, 2H), 0.95 (t, 3H). LRMS [M+H]=252.1

reactant | (E)-8-methyl-2-(prop-1-enyl)benzo[f][1,7]naphthyridin-5-amine | CC1=CC=2C(=C3C=C(C=NC3=C(N2)N)\C=C\C)C=C1 | C16H15N3
reactant | Hydrogen | [H][H] | H2
solvent | ethyl acetate methanol | 0.05 M | C(C)(=O)OCC.CO
catalyst | palladium on carbon | 0.2 eq. | [Pd] | Pd
product | 8-methyl-2-propylbenzo[f][1,7]naphthyridin-5-amine | CC1=CC=2C(=C3C=C(C=NC3=C(N2)N)CCC)C=C1 | C16H17N3
